US06660756B2
2-Hydroxy-4-methyl-benzaldehyde
To a stirred solution of 3-methyl-phenol (1 g, 9.2 mmol) in toluene (5 ml) at room temperature under nitrogen was added SnCl4 (241 mg, 0.92 mmol) and tri-nbutylamine (0.6 ml, 2.77 mmol). After 20 min, paraformaldehyde (611 mg, 20.3 mmol) was added and the whole stirred at 100° C. for 16 h. The reaction mixture was diluted with water (20 ml) and acidified with 2N HCl to pH 2. The solution was extracted with ether (25 ml), washed with brine (20 ml), dried (MgSO4) filtered and evaporated to a brown oil. This oil was purified by column chromatography using 5% EtOAc in pentane as eluant to provide the title product (319 mg, 25%); 1HNMR (400 MHz, CDCl3) δ: 2.3 (s, 3H), 6.75 (m, 2H), 7.35 (d, 1H), 9.75 (s, 1H), 11.00 (s, 1H).

reactant | 3-methyl-phenol | 9.2 mmol, 1 g | CC=1C=C(C=CC1)O | C7H8O
reactant | SnCl4 | 0.92 mmol, 241 mg | Cl[Sn](Cl)(Cl)Cl
reactant | paraformaldehyde | 20.3 mmol, 611 mg | C=O | CH2O
reactant | HCl | 2N | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | 2-Hydroxy-4-methyl-benzaldehyde | 319 mg, 25% | OC1=C(C=O)C=CC(=C1)C | C8H8O2
